US07230133B2
The compound (3-{2-[(1S,2S)-1-{[benzyloxycarbonyl-(2,4-dimethyl-benzyl)-amino]-methyl}-2-hydroxy-pentylcarbamoyl]-acetylamino}-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (577 mg, 0.79 mmol) was dissolved in CH2Cl2 (12 mL) and treated with TFA (4 mL). The solution was stirred for 3 h and then concentrated in vacuo. The residue was dissolved in benzene and concentrated in vacuo; this procedure was repeated to provide {(2S,3S)-2-[2-(3-amino-5-trifluoromethyl-phenylcarbamoyl)-acetylamino]-3-hydroxyhexyl}-(2,4-dimethyl-benzyl)-carbamic acid benzyl ester (100% yield). MS found: (M+H)+=629.4.

reactant | (3-{2-[(1S,2S)-1-{[benzyloxycarbonyl-(2,4-dimethyl-benzyl)-amino]-methyl}-2-hydroxy-pentylcarbamoyl]-acetylamino}-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.79 mmol, 577 mg | C(C)(C)(C)OC(NC1=CC(=CC(=C1)C(F)(F)F)NC(CC(N[C@H]([C@H](CCC)O)CN(CC1=C(C=C(C=C1)C)C)C(=O)OCC1=CC=CC=C1)=O)=O)=O | C38H47F3N4O7
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | {(2S,3S)-2-[2-(3-amino-5-trifluoromethyl-phenylcarbamoyl)-acetylamino]-3-hydroxyhexyl}-(2,4-dimethyl-benzyl)-carbamic acid benzyl ester | 100% yield | C(C1=CC=CC=C1)OC(N(CC1=C(C=C(C=C1)C)C)C[C@@H]([C@H](CCC)O)NC(CC(NC1=CC(=CC(=C1)C(F)(F)F)N)=O)=O)=O | C33H39F3N4O5
